US07119205B2
7-[4-(5-Cyano-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridin-3-yl)-phenyl]-hept-6-ynoic acid diethylamide
To a solution of 7-[4-(5-cyano-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridin-3-yl)-phenyl]-hept-6-ynoic acid (24 mg, 0.06 mmol) in 0.5 mL DMF was added HOBT (trace) followed by TBTU (23 mg, 0.07 mmol). The pH of the reaction mixture was adjusted to pH>6 using Et3N, then stirred at rt overnight. Solvent was removed in vacuo, the resulting slurry was redissolved in MeOH and purified using reverse phase HPLC to afford the titled compound. MS (ESI) m/e 448 (M+H)+; 1H NMR (400 MHz, DMSO-d6): δ 1.00 (t, J=8.1 Hz, 3H), 1.10 (t, J=8.1 Hz, 3H), 1.58–1.68 (m, 4H), 2.33 (t, J=6.90 Hz, 2H), 2.45 (t, J=6.90 Hz, 2H), 3.23–3.33 (m, 4H), 6.65 (s, 1H), 7.26 (d, J=8.59 Hz, 2H), 7.42 (d, J=8.59 Hz, 2H).

reactant | 7-[4-(5-cyano-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridin-3-yl)-phenyl]-hept-6-ynoic acid | 0.06 mmol, 24 mg | C(#N)C1=C(C2=C(NC1=O)SC=C2C2=CC=C(C=C2)C#CCCCCC(=O)O)O | C21H16N2O4S
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | TBTU | 0.07 mmol, 23 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 7-[4-(5-Cyano-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridin-3-yl)-phenyl]-hept-6-ynoic acid diethylamide | C(C)N(C(CCCCC#CC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O)=O)CC | C25H25N3O3S
